US07981903B2
A 4-neck 22 L round bottom flask equipped with mechanical stirrer and thermowell was charged with 1-acetyl-5-(methyloxy)-2,3-dihydro-1H-indole (300 g, 1.56 mol) made in accordance with Step B, immediately above, and acetic anhydride (12 L). The resulting mixture was cooled to 0° C. then nitric acid (70%,.100 mL, 1.56 mol) was added dropwise. The reaction was stirred at room temperature overnight and then cooled to 0° C. The solid formed was collected by vacuum filtration and washed with water (200 mL) and MTBE (200 mL), then dried in a oven to give 1-acetyl-5-(methyloxy)-6-nitro-2,3-dihydro-1H-indole as a yellow solid (239 g, 65% yield). 1H-NMR (CDCl3, 300 MHz) δ 8.43 (s, 1H), 7.31 (s, 1H), 4.13 (t, 2H), 3.87 (s, 3H), 3.22 (t, 2H), 2.14 (s, 3H).

reactant | 1-acetyl-5-(methyloxy)-2,3-dihydro-1H-indole | 1.56 mol, 300 g | C(C)(=O)N1CCC2=CC(=CC=C12)OC | C11H13NO2
reactant | acetic anhydride | 12 L | C(C)(=O)OC(C)=O | C4H6O3
reactant | nitric acid | 1.56 mol, .100 mL | [N+](=O)(O)[O-] | HNO3
product | 1-acetyl-5-(methyloxy)-6-nitro-2,3-dihydro-1H-indole | 239 g, 65% yield | C(C)(=O)N1CCC2=CC(=C(C=C12)[N+](=O)[O-])OC | C11H12N2O4
